US05668291
2-(2,3-Dihydroxypropyldisulfanyl)-N-(4-sulfamoylphenyl) benzamide
This compound was prepared according to the method of Example 132 using a suspension of 0.46 g (1.5 mmol) of 4-(3-oxo-3H-benzo[d]isothiazol-2-yl) benzenesulfonamide in a mixture of 15 mL of methanol, and 15 mL of tetrahydrofuran and 2,3-dihydroxy-1-propanethiol. The product was washed with ether and dried in vacuo to give 0.61 g of the title compound, mp >260° C.

reactant | 4-(3-oxo-3H-benzo[d]isothiazol-2-yl) benzenesulfonamide | 1.5 mmol, 0.46 g | O=C1N(SC2=C1C=CC=C2)C2=CC=C(C=C2)S(=O)(=O)N | C13H10N2O3S2
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | 2,3-dihydroxy-1-propanethiol | OC(CS)CO | C3H8O2S
solvent | methanol | 15 mL | CO | CH4O
product | 2-(2,3-Dihydroxypropyldisulfanyl)-N-(4-sulfamoylphenyl) benzamide | 0.61 g | OC(CSSC1=C(C(=O)NC2=CC=C(C=C2)S(N)(=O)=O)C=CC=C1)CO | C16H18N2O5S3
